US05254718
2-Chloroethyl 2-hydroxy-2-phenylpropionate was prepared from 2-hydroxy-2-phenylpropionic acid hemihydrate and excess 2-chloroethanol essentially by the method described in Step 1 of Example 1: 1H NMR δ 1.81 (s, 3H), δ 3.63-3.68 (m, 2H), δ 3.72 (s, 1H), δ 4.32-4.48 (m, 2H), δ 7.2-7.6 (5H); HRMS calcd for C10H9ClO3Tms (M--CH3) 285.0714, obsd 285.0764.

reactant | 2-hydroxy-2-phenylpropionic acid hemihydrate | O.OC(C(=O)O)(C)C1=CC=CC=C1.OC(C(=O)O)(C)C1=CC=CC=C1
reactant | 2-chloroethanol | ClCCO | C2H5ClO
product | 2-Chloroethyl 2-hydroxy-2-phenylpropionate | OC(C(=O)OCCCl)(C)C1=CC=CC=C1 | C11H13ClO3
